US05077409
3-[[[4-(Tetradecyloxy)phenyl methyl]aminobenzenemethanol
To a solution of the N-[3-(hydroxymethyl)phenyl]-4-(tetradecyloxy)benzamide in 80 ml of tetrahydrofuran at 0° C. under argon is added 36.39 ml of 1M lithium aluminum hydride. Stirred at room temperature for 1 hour and refluxed for 7 hours. After stirring overnight and cooling to 0° C., ethyl acetate is added followed by sodium hydroxide solution until a solid forms. The mixture is diluted with ether, filtered and evaporated to a residue which is crystallized from hexane to give 6.7 g of the desired product as a white solid, m.p. 72°-75° C.

reactant | N-[3-(hydroxymethyl)phenyl]-4-(tetradecyloxy)benzamide | OCC=1C=C(C=CC1)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C28H41NO3
reactant | lithium aluminum hydride | 1M, 36.39 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [4-(Tetradecyloxy)phenyl methyl]aminobenzenemethanol | 6.7 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CNC1=C(C=CC=C1)CO | C28H43NO2
